US07652053B2
cis-(S)-2-{[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexylamino]-methyl}-indan-5-carbonitrile
This compound was prepared from the hydrochloride salt of cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine and (S)-5-cyano-indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C26H30N4 (m/e) calcd 398.2470, obsd 399.3 (M+H).

reactant | cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)N)C=CC(=C2)C | C15H21N3
reactant | (S)-5-cyano-indan-2-carbaldehyde | C(#N)C=1C=C2C[C@H](CC2=CC1)C=O | C11H9NO
product | cis-(S)-2-{[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexylamino]-methyl}-indan-5-carbonitrile | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)NC[C@H]1CC3=CC=C(C=C3C1)C#N)C=CC(=C2)C | C26H30N4
